US09259470B2
N,N-Dimethylpyridin-4-amine (100 mg) and triethylamine (7.0 mL, 69 mmol) at room temperature were added to a mixture of 2-vinyl-1H-indole (4.0 g, 28 mmol) and Boc2O (7.26 g, 33.6 mmol) in DCM (50 mL). After being stirred for 1 hour, the mixture was concentrated. The residue was purified by silica gel column chromatography eluting with petroleum ether/ethyl acetate (200:1) to give tert-butyl 2-vinyl-1H-indole-1-carboxylate (5.2 g, 76% yield) as an oil.

reactant | triethylamine | 69 mmol, 7.0 mL | C(C)N(CC)CC | C6H15N
reactant | 2-vinyl-1H-indole | 28 mmol, 4.0 g | C(=C)C=1NC2=CC=CC=C2C1 | C10H9N
reactant | Boc2O | 33.6 mmol, 7.26 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-Dimethylpyridin-4-amine | 100 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-vinyl-1H-indole-1-carboxylate | 5.2 g, 76% yield | C(=C)C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C | C15H17NO2
